US08039493B2
In analogy to example 1, step 3, N-(5-bromo-furan-2-ylmethyl)-2-chloro-N-isobutyl-benzenesulfonamide was reacted with (3-methylsulfonylphenyl)-boronic acid, Na2CO3 and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium dichloromethane adduct in dioxane/water to give 2-chloro-N-isobutyl-N-[5-(3-methanesulfonyl-phenyl)-furan-2-ylmethyl]-benzenesulfonamide as a light yellow oil. MS: 498.9 ([M+NH4]+)

reactant | N-(5-bromo-furan-2-ylmethyl)-2-chloro-N-isobutyl-benzenesulfonamide | BrC1=CC=C(O1)CN(S(=O)(=O)C1=C(C=CC=C1)Cl)CC(C)C | C15H17BrClNO3S
reactant | (3-methylsulfonylphenyl)-boronic acid | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane water | O1CCOCC1.O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium dichloromethane | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 2-chloro-N-isobutyl-N-[5-(3-methanesulfonyl-phenyl)-furan-2-ylmethyl]-benzenesulfonamide | ClC1=C(C=CC=C1)S(=O)(=O)N(CC=1OC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)CC(C)C | C22H24ClNO5S2
